US07365230B2
Synthesis of Vinyl-4-(N,N-diphenylamino)cinnamate
A 100 mL round bottom flask equipped with a nitrogen inlet-outlet, magnetic stirrer and addition funnel was charged with vinyl iodoacetate (5.6 g, 26 mmol) and triphenylphosphine (6.9 g, 26 mmol) in 50 mL anhydrous tetrahydrofuran. The reaction mixture was blanketed with nitrogen and allowed to stir for 16 h and then cooled to 6° C. on an ice-water bath. Sodium hydride (1.0 g, 25 mmol) was added and the reaction was allowed to warm to room temperature. After stirring at room temperature for 4 h, 4-diphenylaminobenzaldehyde (5.4 g, 20 mmol) dissolved in 40 mL anhydrous THF was added dropwise to the stirring reaction mixture over 30 minutes. After stirring at room temperature for five days, the reaction mixture was diluted with 50 mL diethyl ether and transferred to a separatory funnel. An additional 300 mL diethyl ether was added to the separatory funnel and the combined ether solution was washed three times with 100 mL water and one time with 100 mL saturated NaCl solution. The organic layer was dried over MgSO4, filtered and concentrated on a rotary evaporator. The residue was further dried on a high vacuum line to yield the crude product as a brown oil. After purification by flash column chromatography (silica gel; 3:7 dichloromethane:hexanes) 5.5 g of the pure product was obtained as a light yellow oil. The product yield was 81%.

reactant | vinyl iodoacetate | 26 mmol, 5.6 g | ICC(=O)OC=C | C4H5IO2
reactant | triphenylphosphine | 26 mmol, 6.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Sodium hydride | 25 mmol, 1.0 g | [H-].[Na+]
reactant | 4-diphenylaminobenzaldehyde | 20 mmol, 5.4 g | C1(=CC=CC=C1)N(C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C19H15NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | Vinyl-4-(N,N-diphenylamino)cinnamate | C(=C)OC(C=CC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H19NO2
